US04826836
96 g (0.025 mol) of 2-[1-(4-chlorophenoxy)-2-methyl-prop-2-yl]-2-methyl-5-(piperidin-1-yl-methyl)-1,3-oxathiolane are dissolved in 40 ml of tetrahydrofuran together with 4.6 g (0.025 mol) of saccharine. The solvent is removed in vacuo and the residue is dried under a high vacuum. 14.1 g (98% of theory) of 2-[1-(4-chlorophenoxy)-2-methyl-prop-2-yl]-2-methyl-5-(piperidin-1-yl-methyl)1,3-oxathiolane saccharine salt are obtained as an amorphous substance.

reactant | 2-[1-(4-chlorophenoxy)-2-methyl-prop-2-yl]-2-methyl-5-(piperidin-1-yl-methyl)-1,3-oxathiolane | 0.025 mol, 96 g | ClC1=CC=C(OCC(C)(C)C2(OC(CS2)CN2CCCCC2)C)C=C1 | C20H30ClNO2S
reactant | saccharine | 0.025 mol, 4.6 g | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-[1-(4-chlorophenoxy)-2-methyl-prop-2-yl]-2-methyl-5-(piperidin-1-yl-methyl)1,3-oxathiolane saccharine salt | 14.1 g, 98% | S1(=O)(=O)NC(=O)C2=CC=CC=C12.ClC1=CC=C(OCC(C)(C)C2(OC(CS2)CN2CCCCC2)C)C=C1 | InChI=1S/C20H30ClNO2S.C7H5NO3S/c1-19(2,15-23-17-9-7-16(21)8-10-17)20(3)24-18(14-25-20)13-22-11-5-4-6-12-22;9-7-5-3-1-2-4-6(5)12(10,11)8-7/h7-10,18H,4-6,11-15H2,1-3H3;1-4H,(H,8,9)
